US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-[(2-hydroxyethyl)sulfinyl]-3-quinolinecarboxamide.
This compound was prepared from N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-[(2-hydroxyethyl)sulfanyl]-3-quinolinecarboxamide (Example No. 171) and an equimolar amount of m-chloroperbenzoic acid according to a procedure similar to described in Example 175.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-[(2-hydroxyethyl)sulfanyl]-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)SCCO)F)C=C1 | C19H16ClFN2O3S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-[(2-hydroxyethyl)sulfinyl]-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)S(=O)CCO)F)C=C1 | C19H16ClFN2O4S
